US06759414B2
C. 2-Amino-N-(5-chloropyridin-2-yl)-5-iodobenzamide
To an ice cold stirring suspension of N-(5-chloropyridin-2-yl)-2-aminobenzamide (1.01 g, 4.09 mmol) in ethanol (80 mL) was added a mixture of iodine (1.04 g, 4.10 mmol) and silver sulfate (1.29 g, 4.09 mmol). The mixture was stirred at room temperature for 3 d and filtered. The filtrate was concentrated, partitioned between dichloromethane and saturated aqueous sodium bicarbonate. The organic phase was dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude product was purified by chromatography over silica gel, eluting with a step gradient of 5-10% ethyl acetate in dichloromethane. The chromatography product was slurried in isopropanol and filtered to give 0.49 g (32%) of an orange solid.

reactant | N-(5-chloropyridin-2-yl)-2-aminobenzamide | 4.09 mmol, 1.01 g | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)N)=O | C12H10ClN3O
reactant | iodine | 4.10 mmol, 1.04 g | II | I2
solvent | ethanol | 80 mL | C(C)O | C2H6O
catalyst | silver sulfate | 4.09 mmol, 1.29 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | 2-Amino-N-(5-chloropyridin-2-yl)-5-iodobenzamide | 0.49 g, 32% | NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=C(C=C1)I | C12H9ClIN3O
